US07148226B2
2-(4-Bromo-3-fluoro-benzyl)-thiazole
A solution of (4-Bromo-3-fluoro-phenyl)-thiazol-2-yl-methanol (3.4 g, 12.6 mmol), TFA (25 mL), and Triethylsilane (10 mL, 63 mmol), were refluxed overnight. The reaction was then concentrated under vacuum, and purified by silica gel chromatography (gradient elution 10–40% Ethylacetate/Hexanes). Yield 1.96 g, 61%.

reactant | (4-Bromo-3-fluoro-phenyl)-thiazol-2-yl-methanol | 12.6 mmol, 3.4 g | BrC1=C(C=C(C=C1)C(O)C=1SC=CN1)F | C10H7BrFNOS
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Triethylsilane | 63 mmol, 10 mL | C(C)[SiH](CC)CC | C6H16Si
product | 2-(4-Bromo-3-fluoro-benzyl)-thiazole | BrC1=C(C=C(CC=2SC=CN2)C=C1)F | C10H7BrFNS
